US05480905
Commercial grade of 2-chloromethyl-1,4-benzodioxane (10.0 g, 54.7 mmol) and phthalimide potassium salt (12.0 g, 65.0 mmol) were added to N,N-dimethylformamide (350 ml) and subjected to reaction overnight under reflux; thereafter, N,N-dlmethylformamide was distilled off under vacuum. Water (250 ml) was added to the residue and the mixture was stirred well, with the floating solids being subsequently recovered by filtration. The solids were dried, then recrystallized from methanol/methylene chloride, thereby yielding (1,4-benzodioxan-2-ylmethyl)phthalimide as a colorless tabular crystal in an amount of 8.43 g. The thus obtained crystal was dissolved in ethanol (500 ml); to the solution, hydrazine hydrate (4.3 g) was added, followed by refluxing under heating for 3 h. The resulting solids were filtered off and ethanol was distilled off under vacuum, followed by addition of water (300 ml). Thereafter, an aqueous solution of 6N sodium hydroxide was added to adjust pH to 12 and the mixture was subjected to 3 cycles of extraction with methylene chloride. The methylene chloride layers were dried with anhydrous sodium sulfate, and concentrated under vacuum, thereby yielding a crude product of 2-aminomethyl-1,4-benzodioxane as a colorless oil (crude product, 4.3 g).

reactant | 2-chloromethyl-1,4-benzodioxane | 54.7 mmol, 10.0 g | ClCC1COC2=C(O1)C=CC=C2 | C9H9ClO2
reactant | phthalimide potassium salt | 65.0 mmol, 12.0 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 2-aminomethyl-1,4-benzodioxane | NCC1COC2=C(O1)C=CC=C2 | C9H11NO2
